US06846819B1
b) 1,3-Dimethyl-1H-indole-2-carboxaldehyde
To a stirred solution of phosphorus oxychloride (7.0 mL, 75 mmole) in DMF (25 mL) was added dropwise a solution of 1,3-dimethylindole (12.0 g, 83 mmole) in dry DMF (6.0 mL). The reaction was stirred at RT for 2 hr then was poured onto ice. The mixture was basified with a solution of NaOH (13.2 g, 330 mmole) in H2O (44 mL), then was extracted with Et2O (2×50 mL). The combined organic layers were washed with brine, dried (MgSO4), and concentrated under vacuum. Flash chromatography on silica gel (10% ethyl acetate/hexanes) gave the title compound (13.03 g, 91%) as an off-white solid: LCMS (ES) m/e 174.2 (M+H)+; 1H NMR (400 MHz, CDCl3) δ 10.16 (s,1H), 7.68 (d, J=8.1 Hz,1H), 7.42 (t,1H), 7.32 (d, J=8.5 Hz,1H), 7.15 (t,1H), 4.04 (s, 3H), 21.63 (s, 3H).

reactant | phosphorus oxychloride | 75 mmole, 7.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,3-dimethylindole | 83 mmole, 12.0 g | CN1C=C(C2=CC=CC=C12)C | C10H11N
reactant | NaOH | 330 mmole, 13.2 g | [OH-].[Na+]
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
reactant | DMF | 6.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 44 mL | O | H2O
product | 1,3-Dimethyl-1H-indole-2-carboxaldehyde | 13.03 g, 91% | CN1C(=C(C2=CC=CC=C12)C)C=O | C11H11NO
